US06518315B1
1. Preparation of Dehydrogingerone
To a solution of vanillin (5 g) in acetone (20 mL) was added 10% sodium hydroxide solution (20 mL). The reaction mixture was stirred at room temperature for 4 days (Normura, 1917). After acidification the product was extracted with EtOAc twice and washed with water. Evaporation of solvent left a dark brown liquid which on crystallisation from EtOAc-petroleum afforded the title compound (85%).

reactant | vanillin | 5 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | sodium hydroxide | 20 mL | [OH-].[Na+]
reactant | acetone | 20 mL | CC(=O)C | C3H6O
product | Dehydrogingerone | 85% | CC(=O)/C=C/C1=CC(=C(C=C1)O)OC | C11H12O3
